US04014679
A mixture of 80 g of N-(m-tolyl)-acetoacetamide, 80 g of methyl orthoformate, 100 ml of methanol and 1 g of p-toluene sulfonic acid was refluxed with stirring for 6 hours and the volatile material was distilled off under reduced pressure. 300 ml of toluene and 1.5 ml of quinoline were added and the mixture was heated to about 140° C for 3 hours and then the rest of the toluene was evaporated. The residue was chromatographed over silica gel with a mixture of 9-1 methylene chloride-ethyl acetate as eluant to obtain 40 g of N-(m-tolyl)-3-methoxy-crotonamide melting at 106° C.

reactant | N-(m-tolyl)-acetoacetamide | 80 g | C1(=CC(=CC=C1)NC(CC(=O)C)=O)C | C11H13NO2
reactant | methyl orthoformate | 80 g | C(OC)([O-])[O-]
catalyst | p-toluene sulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 100 ml | CO | CH4O
product | N-(m-tolyl)-3-methoxy-crotonamide | 40 g | C1(=CC(=CC=C1)NC(\C=C(\C)/OC)=O)C | C12H15NO2
